US07902248B2
(E)-Cyclopentyloxyimino-(4-methanesulfonyl-phenyl)-acetic acid ethyl ester (60 mg, 0.18 mmol) was dissolved in ethanol (1.75 mL) and cooled to 0° C. A 2.0 N solution of lithium hydroxide in water (258 μL, 0.52 mmol) was added dropwise and the cooling bath was removed. After stirring 40 min, the reaction mixture was diluted with chloroform (30 mL) and washed with 0.2 M aqueous potassium bisulfate (20 mL). The aqueous phase was extracted with chloroform (30 mL) and the combined organic phases were dried over magnesium sulfate and evaporated in vacuo to afford (E)-cyclopentyloxyimino-(4-methanesulfonyl-phenyl)-acetic acid as a clear, colorless film that was used without further purification.

reactant | (E)-Cyclopentyloxyimino-(4-methanesulfonyl-phenyl)-acetic acid ethyl ester | 0.18 mmol, 60 mg | C(C)OC(/C(/C1=CC=C(C=C1)S(=O)(=O)C)=N/OC1CCCC1)=O | C16H21NO5S
reactant | lithium hydroxide | [OH-].[Li+]
reactant | water | 0.52 mmol, 258 μL | O | H2O
solvent | ethanol | 1.75 mL | C(C)O | C2H6O
product | (E)-cyclopentyloxyimino-(4-methanesulfonyl-phenyl)-acetic acid | C1(CCCC1)O\N=C(\C(=O)O)/C1=CC=C(C=C1)S(=O)(=O)C | C14H17NO5S
